US07411072B2
Propane-2-sulfonic acid [3-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenyl]-amide
Following procedures essentially as described in Example 90, 3-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenylamine and isopropylsulfonyl chloride gives the title compound in 22% yield as a white solid, mp 187.7° C. 1H NMR (CDCl3) δ 1.28 (d, 6H), 2.80-3.60 (br m, 5H), 6.47 (s, 1H), 6.75-7.50 (m, 13H); MS (ES) 426 (M+Na), 402 (M−H). HPLC shows 94% purity.

reactant | 3-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenylamine | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC=3C=C(C=CC3)N | C22H19N
reactant | isopropylsulfonyl chloride | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
product | Propane-2-sulfonic acid [3-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenyl]-amide | 22% yield | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC=3C=C(C=CC3)NS(=O)(=O)C(C)C | C25H25NO2S
